US05643958
(2) Preparation of 3-tert-butyl 2-diphenylmethyl (2RS,3RS)-5-oxotetrahydrofuran-2,3-dicarboxylate
163 mg of (2RS,3SR)-2-diphenylmethoxycarbonyl-5-oxotetrahydrofuran-3-carboxylic acid, 59 mg of 4-dimethylaminopyridine and 36 mg of tert-butanol, were dissolved in 4 ml of methylene chloride, and 110 mg of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride was added thereto, followed by stirring at room temperature for 13 hours. The reaction solution was diluted with methylene chloride, then sequentially washed with a 10% citric acid aqueous solution, a saturated sodium hydrogencarbonate aqueous solution and a saturated sodium chloride aqueous solution and dried over anhydrous magnesium sulfate. The drying agent was filtered off, and then, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1) to obtain 148 mg of the above-identified compound as colorless oily substance.

reactant | (2RS,3SR)-2-diphenylmethoxycarbonyl-5-oxotetrahydrofuran-3-carboxylic acid | 163 mg | C1(=CC=CC=C1)C(OC(=O)C1OC(CC1C(=O)O)=O)C1=CC=CC=C1 | C19H16O6
reactant | tert-butanol | 36 mg | C(C)(C)(C)O | C4H10O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 110 mg | Cl.C(C)N=C=NCCCN(C)C
catalyst | 4-dimethylaminopyridine | 59 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | 3-tert-butyl 2-diphenylmethyl (2RS,3RS)-5-oxotetrahydrofuran-2,3-dicarboxylate | 148 mg | O=C1CC(C(O1)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC(C)(C)C | C23H24O6
